US06066644
1'-(2-Methoxyethyl)-5-(2'-methyl-4'-(5-methyl-1,3,4-oxadiazol-2-yl)biphenyl-4-carbonyl)-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine]
The title compound was prepared from 5-(2'-methyl-4'-(5-methyl-1,3,4-oxadiazol-2-yl)biphenyl-4-carbonyl)-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine] (E17 in WO 96/19477) and 2-bromoethyl methyl ether using a similar procedure to Example 2, with a reaction time of 31 hours heating under reflux (33%). Hydrochloride salt m.p. 238-240° C.

reactant | 5-(2'-methyl-4'-(5-methyl-1,3,4-oxadiazol-2-yl)biphenyl-4-carbonyl)-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine] | CC1=C(C=CC(=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)N1CCC=2C=C3C(=CC12)C1(CCNCC1)CO3 | C31H30N4O3
reactant | 2-bromoethyl methyl ether | COCCBr | C3H7BrO
product | 1'-(2-Methoxyethyl)-5-(2'-methyl-4'-(5-methyl-1,3,4-oxadiazol-2-yl)biphenyl-4-carbonyl)-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine] | COCCN1CCC2(CC1)COC1=CC=3CCN(C3C=C12)C(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)C=1OC(=NN1)C)C | C34H36N4O4
